US07183306B2
To a solution of N′-[5-[4-(benzyloxy)phenyl]-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea (1.19 g) in EtOH (10 ml) and THF (10 ml) were added a solution of ammonium formate (509 mg) in H2O (2 ml) and 10% Pd-C 50% wet (150 mg). The mixture was refluxed for 1 hour. The catalyst was filtered off through a celite pad and the pad was washed with EtOH. The filtrate and combined washings were concentrated in vacuo. To the residue were added AcOEt and H2O. White precipitates were appeared and collected and washed with H2O and IPE successively to give N′-[5-(4-hydroxyphenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea (555 mg) as a white powder.

reactant | N′-[5-[4-(benzyloxy)phenyl]-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea | 1.19 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)NC(N(C)C)=O | C26H26N4O3
reactant | ammonium formate | 509 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 2 ml | O | H2O
solvent | Pd-C | [Pd] | Pd
product | N′-[5-(4-hydroxyphenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea | 555 mg | OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)NC(N(C)C)=O | C19H20N4O3
